US04604390
5-[(2-Aminoethyl)amino]-2-[2-(diethylamino)ethyl]-2H-[1]benzoselenino[4,3,2-cd]indazol-9-ol, trihydrochloride
A suspension of 4.28 g (0.009 mole) of 2-[2-(diethylamino)ethyl]-5-nitro-2H-[1]benzoselenino[4,3,2-cd]indazol-9-ol, hydrochloride and 0.650 g of 20% palladium on carbon in 100 ml N,N-dimethylformamide is hydrogenated at atmospheric pressure for 13 hours. An additional 0.25 g of catalyst is added and the hydrogenation continues for another 24 hours. The mixture is filtered through a Celite pad and the filtrate is concentrated in vacuo to 4.74 g of a dark orange-brown oil. To this oil is added 2.67 g (0.011 mole) of N-(2-bromoethyl)phthalimide and the mixture is heated under argon in a 110° C. oil bath for 20 hours. To the resulting solid is added 200 ml of 1,2-dichloroethane and 3.3 ml of diisopropylethylamine. The mixture is heated under reflux in an argon atomosphere for two hours, diluted further with dichloromethane, and washed once with a saturated solution of aqueous sodium bicarbonate. The organic layer is separated, dried over sodium sulfate, filtered, and concentrated to a crude solid. The solid is dissolved in dichloromethane and filtered through a small column of Florisil with a 1:9 (v/v) solution of methanol and 1,2-dichloroethane. The effluent is concentrated and the resulting solid is triturated with hot 2-propanol to give 1.98 g of the dried product; mp 203°-205° C.

reactant | 2-[2-(diethylamino)ethyl]-5-nitro-2H-[1]benzoselenino[4,3,2-cd]indazol-9-ol, hydrochloride | 0.009 mole, 4.28 g | Cl.C(C)N(CCN1N=C2C=3C(=C(C=CC13)[N+](=O)[O-])[Se]C1=C2C=C(C=C1)O)CC
reactant | N-(2-bromoethyl)phthalimide | 0.011 mole, 2.67 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
reactant | diisopropylethylamine | 3.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | palladium on carbon | 0.650 g | [Pd] | Pd
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-[(2-Aminoethyl)amino]-2-[2-(diethylamino)ethyl]-2H-[1]benzoselenino[4,3,2-cd]indazol-9-ol, trihydrochloride | 1.98 g | Cl.Cl.Cl.NCCNC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C([Se]2)C=CC(=C1)O | InChI=1S/C21H27N5OSe.3ClH/c1-3-25(4-2)11-12-26-17-7-6-16(23-10-9-22)21-19(17)20(24-26)15-13-14(27)5-8-18(15)28-21;;;/h5-8,13,23,27H,3-4,9-12,22H2,1-2H3;3*1H
